US06566528B1
2-chloro-3-chloromethyl-5-methylpyridine (1.3 g, 0.0076 moles) was added to a well-stirred material comprising of 2-nitroimino-1, 3-diazacyclopentane (1.18 g, 0.00912 moles), potassium carbonate (1.16 g, 0.0083 moles), cesium chloride (0.04 g, 0.00024 moles) in acetonitrile (10 ml) solvent at room temperature. The reaction mixture was refluxed for 5 hours. Solvent was removed under reduced pressure and the mass diluted with water (25 ml). The mass was then extracted with methylene chloride (2×50 ml) and the layers were separated. Organic layer was dried over sodium sulphate and solvent removed under reduced pressure. The residue obtained was subjected to chromatographic purification on silica gel to give 1-(2-chloro-5-methyl-3-pyridylmethyl)-2-nitroiminoimidazolidine in 90% yield. NMR (CDCl3+DMSO d6): δ2.38 (s, 3H, CH3), 3.58 (t, 2H, N—CH2), 3.74 (t, 2H, N—CH2), 4.52 (s, 2H, CH2), 7.54 (s, 1H, aromatic), 812 (s, 1H, aromatic), 8.86 (1H, NH). Mass: M+. 269.

reactant | 2-chloro-3-chloromethyl-5-methylpyridine | 0.0076 moles, 1.3 g | ClC1=NC=C(C=C1CCl)C | C7H7Cl2N
reactant | 2-nitroimino-1, 3-diazacyclopentane | 0.00912 moles, 1.18 g | [N+](=O)([O-])N=C1NCCN1 | C3H6N4O2
reactant | potassium carbonate | 0.0083 moles, 1.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | cesium chloride | 0.00024 moles, 0.04 g | [Cl-].[Cs+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(2-chloro-5-methyl-3-pyridylmethyl)-2-nitroiminoimidazolidine | 90% yield | ClC1=NC=C(C=C1CN1C(NCC1)=N[N+](=O)[O-])C | C10H12ClN5O2
